US07465730B2
Utilizing the general procedure outlined in Example 65, 1-[4-acetyl-1-(2-hydroxy-4-methoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone (70 mg, 2.3 mmol) reacted with bromoethane (300 μL, excess), in the presence of K2CO3 (50 mg), to afford 1-[4-acetyl-1-(2-ethoxy-4-methoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone: MS (ESI) 330 (M+H)+. Utilizing the general procedure outlined in Example 48, 1-[4-acetyl-1-(4-ethoxy-2-methoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone (60 mg) and hydrazine (50 μL) reacted to give 6-(2-ethoxy-4-methoxy-phenyl)-1,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]pyridazine as light yellow solid: 1H NMR (CDCl3, 500 MHz) δ 7.04 (d, 1H), 6.68 (s, 1H), 6.64 (d, 1H), 4.15 (q, 1H), 3.78 (s, 3H), 2.81 (s, 6H), 2.40 (s, 6H), 1.51 (t, 3H); MS (ESI) 326 (M+H)+.

reactant | 1-[4-acetyl-1-(2-hydroxy-4-methoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone | 2.3 mmol, 70 mg | C(C)(=O)C=1C(=C(N(C1C)C1=C(C=C(C=C1)OC)O)C)C(C)=O | C17H19NO4
reactant | K2CO3 | 50 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoethane | 300 μL | BrCC | C2H5Br
product | 1-[4-acetyl-1-(2-ethoxy-4-methoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone | C(C)(=O)C=1C(=C(N(C1C)C1=C(C=C(C=C1)OC)OCC)C)C(C)=O | C19H23NO4
